US07569589B2
To 3-cyanobenzaldehyde (8.0 g, 61.0 mmol) was added morpholine (10.63 g, 122.0 mmol), p-toluenesulfonic acid (12.18 g, 64.05 mmol), and then a solution of potassium cyanide (3.97 g, 61.0 mmol) in 12mL water. The mixture was refluxed for 75 minutes then cooled to room temperature and partitioned between satd. sodium bicarbonate and methylene chloride. The aqueous portion was extracted with methylene chloride (1×), and the resulting organic portion washed with satd. sodium bisulfite (1×). The organic portion was dried over sodium sulfate and concentrated in vacuo. Crystallization from hot ethanol gave 3-[cyano(morpholin-4-yl)methyl]benzonitrile (11.83 g, 85%). LRMS m/z (M+H) Calcd: 228.3, found: 228.1.

reactant | 3-cyanobenzaldehyde | 61.0 mmol, 8.0 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | morpholine | 122.0 mmol, 10.63 g | N1CCOCC1 | C4H9NO
reactant | p-toluenesulfonic acid | 64.05 mmol, 12.18 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | potassium cyanide | 61.0 mmol, 3.97 g | [C-]#N.[K+]
solvent | water | 12mL | O | H2O
product | 3-[cyano(morpholin-4-yl)methyl]benzonitrile | 11.83 g, 85% | C(#N)C(C=1C=C(C#N)C=CC1)N1CCOCC1 | C13H13N3O
